### PR TITLE
feat(PBV): improve goal state for better error messages 

### PR DESCRIPTION
**Pull request by luigirinaldi**
Remove reference to `maskOfWidth n` in the generated goal state. If all operations were correctly translated and `bv_decide` finds a counterexample there are no longer any "unsupported expressions abstracted as opaque variables".
- Redefine `var_elim` to not have `maskOfWidth` in the statement
- Rewrite `maskOfWidth`s in the context by adding the hypothesis in the simp set
- Add a pass to clear out hypothesis that are no longer needed

### CODE REVIEW

File: UnitTest/BoundedBitblasting/BoundedBitblasting.lean [hunk 1]
```diff
@@ -225,3 +216,48 @@ example (w : Nat) (x y : BitVec (w + 2)) (hw : w ≤ 4) :
   x + y = y + x := by
   pbv_decide 6 -- Need to extend the bound to account for the w + 2
   · bv_decide
+
+-- # Expected Failures
+
+-- Expected failure: at the blast width, the `setWidth` around `signExtend` is simplified away before `signExtend` is pushed
+#guard_msgs (drop warning) in
```
Comment (tobiasgrosser) [inline UnitTest/BoundedBitblasting/BoundedBitblasting.lean:223]: What does this `drop warning` mean? It seems we actually do not check for an error here, no?

Comment (luigirinaldi) [reply UnitTest/BoundedBitblasting/BoundedBitblasting.lean]: indeed, this was my mistake, fixed it.

File: Veir/Data/PBV/Elim.lean [hunk 2]
```diff
@@ -28,13 +28,14 @@ theorem width_elim (o w : Nat) (Q : Prop)
...
 of width `o` that is masked to "behave" as if it had width `w` (where `w ≤ o`)
 then it also holds for a bitvector `x` of width `w`. -/
-theorem var_elim {o w : Nat} (hwo : w ≤ o) (Q : BitVec w → Prop)
-    (h : ∀ (x : BitVec o), x &&& maskOfWidth o w = x → Q (x.setWidth w)) :
+theorem var_elim {o w : Nat} {m : BitVec o} (hwo : w ≤ o) (hm : m = maskOfWidth o w) (Q : BitVec w → Prop)
+    (h : ∀ (x : BitVec o), x &&& m = x → Q (x.setWidth w)) :
     ∀ (x : BitVec w), Q x := by
   intro x
-  have hinv : (x.setWidth o) &&& maskOfWidth o w = x.setWidth o := by
+--   obtain ⟨m, hm⟩ : ∃ m , m = maskOfWidth o w := ⟨_ , rfl⟩
```
Comment (naveen-seth) [inline Veir/Data/PBV/Elim.lean:35]: Should this be removed?

**Review by naveen-seth — APPROVED** [review]
LGTM, just a small comment

**Review by tobiasgrosser — APPROVED** [review]

File: Veir/Data/PBV/Elim.lean (hunk 2 above)
Comment (luigirinaldi) [reply Veir/Data/PBV/Elim.lean]: yes, and thanks for the review!
